US09278981B2
Stage 198.2 5-Bromo-6-chloro-N-(3-fluoro-4-(trifluoromethoxy)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 185.2 using 5-bromo-6-chloro-nicotinic acid and 3-fluoro-4-trifluoromethoxy-aniline to afford an off-white crystalline solid. HPLC (Condition 4) tR=6.43 min, UPLC-MS (Condition 3) tR=1.29 min, m/z=413 [M−H]−.

reactant | 5-bromo-6-chloro-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 3-fluoro-4-trifluoromethoxy-aniline | FC=1C=C(N)C=CC1OC(F)(F)F | C7H5F4NO
product | 5-Bromo-6-chloro-N-(3-fluoro-4-(trifluoromethoxy)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC(=C(C=C2)OC(F)(F)F)F)C1)Cl | C13H6BrClF4N2O2
